US20010016661A1
A solution of aqueous formaldehyde (37%, 2.95 mL, 66.0 mmol) and dimethylamine (40%, 5.30 mL, 66.0 mmol) in 20 mL EtOH was cooled to 0° C. 5-Chloroindole (4.0 g, 26.4 mmol) was dissolved in a HOAc:EtOH mixture (1:1, 40 mL) and added dropwise to the reaction mixture. After stirring at this temperature for 2 h, the mixture was allowed to warm to room temperature and stir overnight. The mixture was added to a sat'd solution of NaHCO3. 1 N NaOH was added until the pH was between 9-10. The resulting mixture was extracted with CH2Cl2 (3×). The organics were combined and washed with a sat'd aq. NaCl, dried over MgSO4, filtered and concentrated in vacuo to give 4.65 g (85%) of 5-chloro-3-[(dimethylamino)methyl] indole as a yellow powder. Without further purification, 5-chloro-3-[(dimethylamino)methyl] indole (4.65 g, 22.4 mmol) was dissolved in dimethylformamide (80 mL) at room temperature with stirring. To this was added KCN (2.18 g, 33.5 mmol) in H2O (10 mL). The mixture was warmed to 140° C. and stirred for 14 h. H2O was added and the mixture was extracted with EtOAc (2×). The organics were combined and washed with sat'd brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by SiO2 flash chromatography (3:2, Heptane:EtOAc) to give 2.65 g (63%) of 5-chloroindole-3-acetonitrile. 1H NMR (DMSO-d6, 300 MHz) δ 11.30 (br s, 1 H), 7.63 (s, 1 H), 7.42-7.38 (m, 2 H), 7.05 (d, J=6.0 Hz, 1 H), 5.70 (s, 2 H),

reactant | 5-chloro-3-[(dimethylamino)methyl] indole | 22.4 mmol, 4.65 g | ClC=1C=C2C(=CNC2=CC1)CN(C)C | C11H13ClN2
reactant | KCN | 33.5 mmol, 2.18 g | [C-]#N.[K+]
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | H2O | 10 mL | O | H2O
product | 5-chloroindole-3-acetonitrile | 2.65 g, 63% | ClC=1C=C2C(=CNC2=CC1)CC#N | C10H7ClN2
